US06953806B2
In analogy to the sequence described in examples 1.5 and 1.7, trans-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester was treated with hydrogen chloride solution in methanol/water followed by acylation with 4-chlorophenyl chloroformate giving trans-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester as colorless viscous oil, MS: 370 (MH+, 1Cl).

reactant | trans-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C[C@@H]1CC[C@H](CC1)OCCCCO)=O | C17H33NO4
reactant | hydrogen chloride | Cl | ClH
reactant | 4-chlorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
solvent | methanol water | CO.O
product | trans-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)OCCCCO)=O | C19H28ClNO4
